US08183246B2
[2-({[5-(4-Ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}methyl)-3,3-dimethylbutoxy]-acetic acid
Add 1.0 ml 4 N hydrogen chloride in dioxan to 155 mg (0.29 mmol) [2-({[5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}methyl)-3,3-dimethylbutoxy]acetic acid tert.-butyl ester and stir for 48 h at RT. After concentrating the reaction solution by evaporation under vacuum, purify the residue by preparative RP-HPLC (gradient: water/acetonitrile). 122 mg (88% of theor.) of the desired product (racemate) is obtained.

reactant | hydrogen chloride | 4 N, 1.0 ml | Cl | ClH
reactant | [2-({[5-(4-ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}methyl)-3,3-dimethylbutoxy]acetic acid tert.-butyl ester | 0.29 mmol, 155 mg | C(C)(C)(C)OC(COCC(C(C)(C)C)COC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)CC)C2=CC=CC=C2)=O | C33H40N2O5
solvent | dioxan | O1CCOCC1 | C4H8O2
product | [2-({[5-(4-Ethylphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}methyl)-3,3-dimethylbutoxy]-acetic acid | C(C)C1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OCC(COCC(=O)O)C(C)(C)C)C2=CC=CC=C2 | C29H32N2O5
